US04395406
1-Methyl-5-chloropyrimid-2-one
A mixture of 2-chloro-1,1,3,3-tetramethoxypropane (0.05 mol), N-methylurea (0.04 mol) in 10 N HCl (10 ml) in ethanol (100 ml) was allowed to stand at room temperature for 4 days. The reaction mixture was then evaporated, the residue dissolved in water (100 ml) and the pH of the solution adjusted to 8 by means of Na2CO3. The mixture was then extracted with chloroform (4×30 ml) and the dried (Na2SO4) extracts evaporated. The residue was recrystallised from acetone; yield 20%. The physical data for the product was identical to those measured for the compound as prepared by the method of Example 2.

reactant | 2-chloro-1,1,3,3-tetramethoxypropane | 0.05 mol | ClC(C(OC)OC)C(OC)OC | C7H15ClO4
reactant | N-methylurea | 0.04 mol | CNC(=O)N | C2H6N2O
solvent | HCl | 10 N, 10 ml | Cl | ClH
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 1-Methyl-5-chloropyrimid-2-one | yield 20% | CN1C(N=CC(=C1)Cl)=O | C5H5ClN2O
